US08227458B2
trans-1-[8-Chloro-1-(4-phenoxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulen-5-yl]-2-dimethylamino-ethanone
To a mixture of trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride (0.179 g, 0.41 mmol) in tetrahydrofuran (2 ml) was added triethylamine (0.058 ml, 0.41 mmol). The suspension was stirred for 10 minutes. The ammonium salts were removed by filtration. The filtrate was concentrated in vacuo. The residue was redissolved in tetrahydrofuran (3 ml) followed by consecutive addition of N,N-dimethylglycine (0.056 g, 0.54 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.104 g, 0.54 mmol. Stirring for 18 h at 50° C. was followed by partitioning between water (50 ml) and dichloromethane (50 ml). The organic layer was separated. The aqueous layer was extracted with one 50-ml portion of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.057 g, 28%) as white solid.

reactant | trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride | 0.41 mmol, 0.179 g | Cl.ClC=1C=CC2=C(CNCC3=NN=C(N23)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C1
reactant | triethylamine | 0.41 mmol, 0.058 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylglycine | 0.54 mmol, 0.056 g | CN(CC(=O)O)C | C4H9NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | trans-1-[8-Chloro-1-(4-phenoxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulen-5-yl]-2-dimethylamino-ethanone | 0.057 g, 28% | ClC=1C=CC2=C(CN(CC3=NN=C(N23)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C(CN(C)C)=O)C1 | C26H30ClN5O2
